US07943651B2
Intermediate 2: Phenylmethyl 3-(4-{[4-[5-fluoro-2-(methyloxy)phenyl]-2-hydroxy-4-methyl-2-(trifluoromethyl)pentyl]amino}-6-methyl-1H-indazol-1-yl)benzoate
A solution of racemic 2-{2-[5-fluoro-2-(methyloxy)phenyl]-2-methylpropyl}-2-(trifluoromethyl)oxirane (which may be prepared according to WO 04/063163, 350 mg, 1.2 mmol), in acetonitrile (2 mL) was added to a mixture of phenylmethyl 3-(4-amino-6-methyl-1H-indazol-1-yl)benzoate (357 mg, 1.0 mmol) and ytterbium(III) triflate (124 mg, 0.2 mmol). The mixture was stirred and heated to 85° C. under nitrogen in a greenhouse apparatus for 18 hours when the temperature was raised to 100° C. and the mixture heated under vigorous reflux for a further ˜21 hours. The mixture was cooled to room temperature and partitioned between dichloromethane (50 mL) and aqueous sodium bicarbonate (50 mL). The aqueous layer was extracted again with dichloromethane (50 mL) and the combined organic extracts were dried over anhydrous sodium sulphate and evaporated. The residue was purified by silica gel chromatography using the Flashmaster II (50 g cartridge) eluting with a cyclohexane to 1:1 cyclohexane:ethyl acetate gradient over 40 minutes to give the title compound as a white solid (424 mg).

reactant | racemic 2-{2-[5-fluoro-2-(methyloxy)phenyl]-2-methylpropyl}-2-(trifluoromethyl)oxirane | 1.2 mmol, 350 mg | FC=1C=CC(=C(C1)C(CC1(OC1)C(F)(F)F)(C)C)OC | C14H16F4O2
reactant | phenylmethyl 3-(4-amino-6-methyl-1H-indazol-1-yl)benzoate | 1.0 mmol, 357 mg | NC1=C2C=NN(C2=CC(=C1)C)C=1C=C(C(=O)OCC2=CC=CC=C2)C=CC1 | C22H19N3O2
reactant | ytterbium(III) triflate | 0.2 mmol, 124 mg | [O-]S(=O)(=O)C(F)(F)F.[Yb+3].[O-]S(=O)(=O)C(F)(F)F.[O-]S(=O)(=O)C(F)(F)F
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | Phenylmethyl 3-(4-{[4-[5-fluoro-2-(methyloxy)phenyl]-2-hydroxy-4-methyl-2-(trifluoromethyl)pentyl]amino}-6-methyl-1H-indazol-1-yl)benzoate | 424 mg | FC=1C=CC(=C(C1)C(CC(CNC1=C2C=NN(C2=CC(=C1)C)C=1C=C(C(=O)OCC2=CC=CC=C2)C=CC1)(C(F)(F)F)O)(C)C)OC | C36H35F4N3O4
